US08445674B2
B) 3-[(3-Chloro-4-trifluoromethoxy-phenyl)-methoxycarbonylmethyl-amino]-propionic acid tert-butyl ester
A neat solution of 8.50 g (22.5 mmol) of 3-(3-chloro-4-trifluoromethoxy-phenylamino)-propionic acid tert-butyl ester, 10.71 ml (112.6 mmol) of methyl bromoacetate and 13.07 ml (112.6 mmol) of 2,6-lutidine was stirred 14 h at 60° C., diluted with 30 ml of CH3CN and heated at 115° C. for 20 h. The reaction was then partitioned between aqueous 10% KHSO4 solution and EtOAc (3×). The organic phases were washed with aqueous 10% NaCl, dried over Na2SO4 evaporated and purified by flash silica gel column (n-heptane:EtOAc 95:5 to 85:1) to yield 5.94 g (64%) of the title compound as light yellow oil. MS: 412.11 (MH+, Cl).

reactant | 3-(3-chloro-4-trifluoromethoxy-phenylamino)-propionic acid tert-butyl ester | 22.5 mmol, 8.50 g | C(C)(C)(C)OC(CCNC1=CC(=C(C=C1)OC(F)(F)F)Cl)=O | C14H17ClF3NO3
reactant | methyl bromoacetate | 112.6 mmol, 10.71 ml | BrCC(=O)OC | C3H5BrO2
reactant | 2,6-lutidine | 112.6 mmol, 13.07 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | CH3CN | 30 ml | CC#N | C2H3N
product | 3-[(3-Chloro-4-trifluoromethoxy-phenyl)-methoxycarbonylmethyl-amino]-propionic acid tert-butyl ester | 5.94 g, 64% | C(C)(C)(C)OC(CCN(CC(=O)OC)C1=CC(=C(C=C1)OC(F)(F)F)Cl)=O | C17H21ClF3NO5
